US05523280
1-Methyl-3-(2,3-dichlorophenyl)-4-chloropyrazole (compound 149)
1.5 g of 4-chloro-3-(2,3-dichlorophenyl)pyrazole and 0.40 g of dimethyl methylphosphonate are heated at 150° C. for 1 hour. After returning to room temperature, the mixture is taken up in a saturated aqueous NaHCO3 solution and extracted with 2×50 ml of CH2Cl2. The combined organic phases are dried over Na2SO4 and concentrated under reduced pressure. The crude solid is purified by liquid chromatography on a silica column (eluent: heptane/ethyl acetate [80/20]).

reactant | 4-chloro-3-(2,3-dichlorophenyl)pyrazole | 1.5 g | ClC=1C(=NNC1)C1=C(C(=CC=C1)Cl)Cl | C9H5Cl3N2
reactant | dimethyl methylphosphonate | 0.40 g | CP(OC)(OC)=O | C3H9O3P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1-Methyl-3-(2,3-dichlorophenyl)-4-chloropyrazole | CN1N=C(C(=C1)Cl)C1=C(C(=CC=C1)Cl)Cl | C10H7Cl3N2
